US08802664B2
To a solution of 2-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)-methyl]phenylsulfanyl}ethanol (400 mg) in dichloromethane (5 mL) is added methanesulfonylchloride (1.25 molar equivalent) in dichloromethane (1.5 mL) and triethylamine (1.5 molar equivalent). The reaction mixture is stirred overnight at room temperature. Volatiles are removed under reduced pressure to dryness. Water is added and the aqueous phase is extracted by diethylether. The organic phase is dried over magnesium sulfate and concentrated. The residue is purified by column chromatography (dichloromethane/methanol from 98/2) to afford methanesulfonic acid 2-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}ethyl ester that will be used without further purification.

reactant | 2-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)-methyl]phenylsulfanyl}ethanol | 400 mg | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)SCCO)OC2CCN(CC2)C | C22H26N2O2S2
reactant | methanesulfonylchloride | 1.25 molar | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | triethylamine | 1.5 molar | C(C)N(CC)CC | C6H15N
product | methanesulfonic acid 2-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}ethyl ester | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)SCCOS(=O)(=O)C)OC2CCN(CC2)C | C23H28N2O4S3
